US06573270B1
4-(tert-butyl)-N-{[4-(tert-butyl)phenyl]sulfonyl}-N-[3-[2-(4-fluorophenoxy)ethoxy]-1-methyl-4-(4-methylphenyl)-1H-pyrazol-5-yl]benzenesulfonamide
To 3-[2-(4-fluorophenoxy)ethoxy]-1-methyl-4-(4-methylphenyl)-1H-pyrazol-5-ylamine (Preparation 26) (105mg) in dichloromethane (20ml) at room temperature was added 4-tert-butylbenzenesulfonyl chloride (2 g), tetrabutylammonium hydrogen sulfate (75 mg) and potassium hydroxide (690 mg), the mixture was sonicated for 3 hrs. The reaction was partitioned between 2N aqueous hydrochloric acid and ethyl acetate. The organic layer was separated, washed with water, then brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography using silica gel, eluting with a solvent gradient of pentane:ethyl acetate (39:1 to 4:1), to yield the title compound as a glass (180 mg).

reactant | 3-[2-(4-fluorophenoxy)ethoxy]-1-methyl-4-(4-methylphenyl)-1H-pyrazol-5-ylamine | 105mg | FC1=CC=C(OCCOC2=NN(C(=C2C2=CC=C(C=C2)C)N)C)C=C1 | C19H20FN3O2
reactant | 4-tert-butylbenzenesulfonyl chloride | 2 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | potassium hydroxide | 690 mg | [OH-].[K+]
solvent | dichloromethane | 20ml | ClCCl | CH2Cl2
catalyst | tetrabutylammonium hydrogen sulfate | 75 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-(tert-butyl)-N-{[4-(tert-butyl)phenyl]sulfonyl}-N-[3-[2-(4-fluorophenoxy)ethoxy]-1-methyl-4-(4-methylphenyl)-1H-pyrazol-5-yl]benzenesulfonamide | 180 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=C(C(=NN1C)OCCOC1=CC=C(C=C1)F)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C39H44FN3O6S2
